US07517875B2
After dissolving 4-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester (3.29 g, 15.4 mmol) in acetonitrile (40 ml), the mixture was cooled in an ice bath. A solution of 1,1-thiocarbonyldiimidazole (3.28 g, 18.4 mmol) and imidazole (314 mg, 4.6 mmol) in acetonitrile (30 ml) was added dropwise thereto, and the mixture was stirred for 2 hours while raising the temperature to room temperature. After adding 2,3-diaminobenzoic acid methyl ester (3.07 g, 18.5 mmol) to the reaction mixture, it was stirred at 50° C. overnight. Diisopropylcarbodiimide (2.84 ml, 18.5 mmol) was then added and the mixture was stirred at 80° C. for 2 hours. The residue obtained by concentrating the reaction mixture under reduced pressure was purified by silica gel column chromatography (n-hexane/ethyl acetate=3/2→ethyl acetate/methanol/triethylamine=10/1/0.1) to obtain 2-[(1-tert-butoxycarbonyl-piperidin-4-ylmethyl)-amino]-1H-benzimidazole-4-carboxylic acid methyl ester. The compound was identified by LC-MS.

reactant | 4-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester | 15.4 mmol, 3.29 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN | C11H22N2O2
reactant | 1,1-thiocarbonyldiimidazole | 18.4 mmol, 3.28 g | C1=CN(C=N1)C(=S)N2C=CN=C2 | C7H6N4S
reactant | imidazole | 4.6 mmol, 314 mg | N1C=NC=C1 | C3H4N2
reactant | 2,3-diaminobenzoic acid methyl ester | 18.5 mmol, 3.07 g | COC(C1=C(C(=CC=C1)N)N)=O | C8H10N2O2
reactant | Diisopropylcarbodiimide | 18.5 mmol, 2.84 ml | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 2-[(1-tert-butoxycarbonyl-piperidin-4-ylmethyl)-amino]-1H-benzimidazole-4-carboxylic acid methyl ester | COC(=O)C1=CC=CC=2NC(=NC21)NCC2CCN(CC2)C(=O)OC(C)(C)C | C20H28N4O4
